US07425555B2
Intermediate 1: 3-Iodo-4methylbenzoyl chloride
Thionyl chloride (8.2 ml, 112.5 mmol) was added to a mixture of 3-iodo-4-methylbenzoic acid (18.5 g, 75 mmol) in chloroform (100 ml) and heated at 61° C. for 16 hours. The solvent was removed in vacuo and excess thionyl chloride removed by azeotroping with toluene (3×30 ml). The desired product was formed as a beige solid (19.5 g 93%) and used in subsequent reactions without further purification.

reactant | Thionyl chloride | 112.5 mmol, 8.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-iodo-4-methylbenzoic acid | 75 mmol, 18.5 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Iodo-4methylbenzoyl chloride | IC=1C=C(C(=O)Cl)C=CC1C | C8H6ClIO
